US04472547
1,2,2,6,6-Pentamethylpiperidin-4-yl 4-(2-Oxo-1-azepinyl)-2,2,6,6-tetramethylpiperidin-1-ylacetate
A solution of 7.5 g (0.022 mole) of ethyl 4-(2-oxo-1-azepinyl)-2,2,6,6-tetramethylpiperidin-1-ylacetate and 4.2 g (0.024 mole) of 1,2,2,6,6-pentamethylpiperidin-4-ol in 50 ml of xylene is heated for one hour at 120° C. in the presence of 0.1 g of lithium amide esterification catalyst. The xylene-ethanol azeotropic mixture is slowly distilled off using an oil bath held at 150° C. to heat the reaction vessel. After five hours, four drops of acetic acid is added to the reaction mixture and the xylene solvent is removed by distillation.

reactant | ethyl 4-(2-oxo-1-azepinyl)-2,2,6,6-tetramethylpiperidin-1-ylacetate | 0.022 mole, 7.5 g | O=C1N(C=CC=CC1)C1CC(N(C(C1)(C)C)CC(=O)OCC)(C)C | C19H30N2O3
reactant | 1,2,2,6,6-pentamethylpiperidin-4-ol | 0.024 mole, 4.2 g | CN1C(CC(CC1(C)C)O)(C)C | C10H21NO
reactant | lithium amide | 0.1 g | [NH2-].[Li+]
solvent | xylene | 50 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 1,2,2,6,6-Pentamethylpiperidin-4-yl 4-(2-Oxo-1-azepinyl)-2,2,6,6-tetramethylpiperidin-1-ylacetate | O=C1N(C=CC=CC1)C1CC(N(C(C1)(C)C)CC(=O)OC1CC(N(C(C1)(C)C)C)(C)C)(C)C | C27H45N3O3
